US08217066B2
Synthesis of N-(1-{4′-[4-(1-Hydroxy-2-phenethyloxy-ethyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarbonyl)-methanesulfonamide (Compound 74)
Prepared according to the procedure described in Example 2, using 1-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-2-phenethyloxy-ethanol and N-{1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarbonyl}-methanesulfonamide.

reactant | 1-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-2-phenethyloxy-ethanol | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(COCCC1=CC=CC=C1)O | C20H20BrNO3
reactant | N-{1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarbonyl}-methanesulfonamide | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C1(CC1)C(=O)NS(=O)(=O)C)C | C17H24BNO5S
product | N-(1-{4′-[4-(1-Hydroxy-2-phenethyloxy-ethyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarbonyl)-methanesulfonamide | OC(COCCC1=CC=CC=C1)C=1C(=NOC1C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)NS(=O)(=O)C)C | C31H32N2O6S
